US06479536B1
5,6-Dimethoxy-2-(2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-yl)isoindoline
To a solution of 2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-amine (1.00 g, 3.56 mmol) in tetrahydrofuran (30 ml) were added 1,2-bis(chloromethyl)-4,5-dimethoxybenzene (889.1 mg, 3.78 mmol), sodium carbonate (1.15 g, 10.85 mmol), and tetrabutylammonium iodide (701.4 mg, 1.90 mmol) and the mixture was refluxed with heating for 21 hours. The reaction mixture was cooled down to room temperature and then poured into ice water. The product was extracted twice with ethyl acetate. The combined extracts were washed with an aqueous saturated solution of sodium hydrogen carbonate, dried on magnesium sulfate, filtered, and then concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel to obtain 403 mg (26% yield) of the title compound. Melting point: 154-157° C. (Ethyl acetate).

reactant | 2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-amine | 3.56 mmol, 1.00 g | CC1(OC2=C(C1C1=CC=CC=C1)C(=C(C(=C2C)C)N)C)C | C19H23NO
reactant | 1,2-bis(chloromethyl)-4,5-dimethoxybenzene | 3.78 mmol, 889.1 mg | ClCC1=C(C=C(C(=C1)OC)OC)CCl | C10H12Cl2O2
reactant | sodium carbonate | 10.85 mmol, 1.15 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium iodide | 1.90 mmol, 701.4 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5,6-Dimethoxy-2-(2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-yl)isoindoline | 403 mg, 26% yield | COC=1C=C2CN(CC2=CC1OC)C=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=CC=C2)C1C)C)C | C29H33NO3
